US07994203B2
2-Bromo-1-(2-chloro-4-methoxy-phenyl)-propan-1-one
To a cooled (0° C.) stirring suspension of aluminum chloride (10.89 g, 82 mmol) in DCE (700 ml) is added 2-bromopropionyl bromide (8.66 ml, 82 mmol) followed by 3-chloroanisol (10 ml, 82 mmol) dropwise (rapidly) maintaining the temperature below 5° C. The reaction mixture is stirred at 0° C. for 10 min and RT for 3 hours. The mixture is poured into ice/water (1000 ml) containing 90 ml of 5M HCl. The organic phase is separated and the aqueous portion is washed with DCM (500 ml). The organic extracts are combined, washed with brine, dried (MgSO4) and concentrated in vacuo. Purification of the crude product by chromatography on silica eluting with 2.5% incraesing to 5% TBME/Hex increasing up to 5% affords the title product. MS: m/z 278.9 [M+H]+

reactant | aluminum chloride | 82 mmol, 10.89 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromopropionyl bromide | 82 mmol, 8.66 ml | BrC(C(=O)Br)C | C3H4Br2O
reactant | 3-chloroanisol | 82 mmol, 10 ml | ClC=1C=C(C=CC1)OC | C7H7ClO
reactant | HCl | 5M, 90 ml | Cl | ClH
solvent | DCE | 700 ml | ClCCCl | C2H4Cl2
product | 2-Bromo-1-(2-chloro-4-methoxy-phenyl)-propan-1-one | BrC(C(=O)C1=C(C=C(C=C1)OC)Cl)C | C10H10BrClO2
